US06699861B1
tert-Butyl 4-[N-[2-Diethylaminomethyl-7-chloro-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate
To a stirred under argon solution of tert-butyl 4-[N-[7-chloro-2-methanesulphonyloxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate (0.230 g, 0.42 mmol) in anhydrous dichloromethane (10 ml) was added diethyl amine (0.306 g, 4.2 mmol). The yellow solution was then stirred at room temperature for 18 hours. The solution was then diluted with ethyl acetate (250 ml) and washed with 5% aqueous sodium carbonate solution (2×100 ml), brine (100 ml), and concentrated in vacuo. Purification by column chromatography, on gradient elution with methanol in dichloromethane (0 to 2%) afforded a white crispy solid which was triturated diethyl ether/hexanes (v/v, 1:2). The white solid was collected by filtration, washed with hexanes and dried in vacuo over P2O5 (0.202 g, 92%), mp 112-113° C.; 1H-NMR (DMSO-d6) 0.95 (t, J=6.9 Hz, 6H, 2×CH2CH3), 1.49 (s, 9H, But), 2.56 (q obscured, J=6.85 Hz, 4H, 2×CH2CH3), 3.62 (s, 3H, N3-Me), 3.70 (s, 2H, 2-CH2), 4.40 (s, 2H, CH2C≡C), 4.79 (s, 2H, 6-CH2), 6.78 (d, J=8.9 Hz, 2H, 3′,5′-ArH), 7.72 (d, J=8.9 Hz, 2′,6′-ArH), 7.81, 7.86 (2×s, 2H, 5-H, 8-H); MS (FAB, m/z) 523, 525 [(M+H)+, 100%, 40% respectively; Cl isotopic pattern].

reactant | tert-butyl 4-[N-[7-chloro-2-methanesulphonyloxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.42 mmol, 0.230 g | ClC1=C(C=C2C(N(C(=NC2=C1)COS(=O)(=O)C)C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C26H28ClN3O6S
reactant | diethyl amine | 4.2 mmol, 0.306 g | C(C)NCC | C4H11N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[N-[2-Diethylaminomethyl-7-chloro-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | C(C)N(CC)CC1=NC2=CC(=C(C=C2C(N1C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)Cl | C29H35ClN4O3
